US06559143B1
4-[((2S)-2-Amino-3-{7-[2-(1H-pyrrol-1-yl)ethyl]-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl}propyl)oxy]benzonitrile
A mixture of tert-butyl (1S)-2-(4-cyanophenoxy)-1-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-ylmethyl)ethylcarbamate (Preparation J; 100.62 mg, 0.25 mmol), 1-(2-bromoethyl)pyrrole (52.21 mg, 0.30 mmol) and TEA (37.9 mg, 0.375 mmol) in DMF (2.5 mL) was stirred at rt for 2 days and then at 50° C. for 1 day. The solvent was evaporated and the resulting residue dissolved in ethyl acetate (0.5 mL). Ethyl acetate saturated with gaseous hydrochloric acid (2 mL) was added, and the reaction mixture stirred for 1.5 h at rt. The solvent was evaporated and the resulting residue dissolved in a mixture of MeCN (2.5 mL) and H2O (0.13 mL). Potassium carbonate (100 mg, 0.72 mmol) was added, and the mixture stirred overnight at rt. The mixture was filtered and the filtrate concentrated in vacuo. The resulting crude product was dissolved in DCM (2 mL), which solution was added to a ion-exchange solid-phase extraction plug (CBA, 2 g). After 80 min, the product was eluted with DCM:MeCN (4×2 mL of 4:1), followed by DCM:MeOH:TEA (8:1:1), to give 89.7 mg (90.7%) of the title compound.

reactant | tert-butyl (1S)-2-(4-cyanophenoxy)-1-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-ylmethyl)ethylcarbamate | 0.25 mmol, 100.62 mg | C(#N)C1=CC=C(OC[C@H](CN2CC3CNCC(C2)O3)NC(OC(C)(C)C)=O)C=C1 | C21H30N4O4
reactant | 1-(2-bromoethyl)pyrrole | 0.30 mmol, 52.21 mg | BrCCN1C=CC=C1 | C6H8BrN
reactant | Potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 4-[((2S)-2-Amino-3-{7-[2-(1H-pyrrol-1-yl)ethyl]-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl}propyl)oxy]benzonitrile | 89.7 mg, 90.7% | N[C@H](COC1=CC=C(C#N)C=C1)CN1CC2CN(CC(C1)O2)CCN2C=CC=C2 | C22H29N5O2
